US07557133B2
(2S)-4-(tert-butoxy)-2-({[(5R)-5-isopropyl-3-(1-isoquinolinyl)-4,5-dihydro-5-isoxazolyl]carbonyl}amino)-4-oxobutanoic acid [obtained by coupling reaction of Compound (VIIf) with Asp(O-t-Bu)-OMe and hydrolysis] was reacted according to the same procedure as Preparation 5 to give bromomethyl ketone derivative (tert-butyl (3S)-5-bromo-3-({[(5R)-5-isopropyl-3-(1-isoquinolinyl)-4,5-dihydro-5-isoxazolyl]carbonyl}amino)-4-oxopentanoate). This bromomethyl ketone derivative was reacted with diphenylphosphinic acid in KF/DMF (see Preparation 5) to give diphenylphosphoryloxymethyl ketone derivative, which was then reacted according to the same procedure as Example 2 to give the title compound (Compound of Example 60).

reactant | bromomethyl ketone | BrCC(=O)CBr | C3H4Br2O
reactant | diphenylphosphinic acid | C1(=CC=CC=C1)P(O)(=O)C1=CC=CC=C1 | C12H11O2P
solvent | KF DMF | [F-].[K+].CN(C)C=O
product | diphenylphosphoryloxymethyl ketone | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)OCC(=O)COP(=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H24O5P2
